US06204264B1
(1) 4-Chloro-N-methyl-3-nitrobenzamide
Thionyl chloride (0.65 ml) was added to a solution containing 4-chloro-3-nitrobenzoic acid (1.50 g) in N,N-dimethylformamide (15 ml) and stirred for 30 minutes at room temperature. Methylamine hydrochloride (1.21 g) and triethylamine (3.11 ml) were added to the reaction mixture. After being stirred for 1 hour at room temperature, the reaction mixture was concentrated. The residue, with ethyl acetate added thereto, was washed with water, 1N sodium hydroxide aqueous solution, 1N hydrochloric acid aqueous solution and saturated brine successively, dried over sodium sulfate anhydride, and concentrated. The yellow solid residue was purified by silica gel column chromatography (silica gel 10 g, chloroform:methanol=1:0-10:1), thereby yielding the entitled compound (0.97 g) as pale yellow solid.

reactant | Thionyl chloride | 0.65 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-chloro-3-nitrobenzoic acid | 1.50 g | ClC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | Methylamine hydrochloride | 1.21 g | Cl.CN
reactant | triethylamine | 3.11 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 4-Chloro-N-methyl-3-nitrobenzamide | 0.97 g | ClC1=C(C=C(C(=O)NC)C=C1)[N+](=O)[O-] | C8H7ClN2O3
